US07176216B2
tert-Butyl N-(7-bromo-2-methoxypyrazolo[1,5-a]pyridin-3-yl)carbamate
To a solution of 7-bromo-2-methoxypyrazolo[1,5-a]pyridine-3-amine (810 mg) dissolved in dichloromethane (20 mL) was added triethylamine (0.7 mL) and di-tert-butyl dicarbonate (923 μL) while cooling with ice, and the reaction mixture was stirred overnight at room temperature. Water was added to the obtained reaction mixture, extraction was performed with ethyl acetate, and the organic extract was washed with brine. The obtained organic extract was dried over anhydrous magnesium sulfate and filtered, the solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography and the title compound (1.05 g) was obtained as yellow crystals from the n-hexane:ethyl acetate (10:1) fraction.

reactant | 7-bromo-2-methoxypyrazolo[1,5-a]pyridine-3-amine | 810 mg | BrC1=CC=CC=2N1N=C(C2N)OC | C8H8BrN3O
reactant | triethylamine | 0.7 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 923 μL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl N-(7-bromo-2-methoxypyrazolo[1,5-a]pyridin-3-yl)carbamate | 1.05 g | BrC1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)OC | C13H16BrN3O3
